US05049544
Into a 500 ml round bottom flask equipped with a Soxhlet extractor filled with molecular sieves, 50 g of 2-cyclo-hexylpropionate, 100 g of ethanol, 0.5 g of p-toluene sulfonic acid, and 200 ml of chloroform were charged. The mixture was reacted under refluxing for 40 hours. The reaction mixture was washed with water and distilled under reduced pressure to obtain 56.4 g of ethyl 2-cyclohexylpropionate (yield: 96%, purity: 99.4%). The compound obtained had a fruity (namely aldehyde C-16 and apple-like) odor.

reactant | 2-cyclo-hexylpropionate | 50 g | C1(CCCCC1)C(C(=O)[O-])C
reactant | ethanol | 100 g | C(C)O | C2H6O
catalyst | p-toluene sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-cyclohexylpropionate | 56.4 g, yield: 96% | C1(CCCCC1)C(C(=O)OCC)C | C11H20O2
